resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.009449
R2 0 n2 1.005453
R3 0 n4 0.990164
R4 n1 n3 0.994368
R5 n1 n5 1.017586
R6 n2 n3 0.99257
R7 n2 n6 0.990465
R8 n3 n7 0.9833
R9 n4 n5 0.988267
R10 n4 n6 1.004227
R11 n5 n7 1.014374
R12 n6 n7 1.008925
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
